US07700633B2
A mixture of 3,7-dihydroxynaphthalene-2-carboxylic acid (2.04 g, 10 mmol), benzyl bromide (5.98 g, 35 mmol) and potassium carbonate (6.9 g, 50 mmol) in 20 mL of DMF is stirred at 60° C. for 18 h. The mixture is cooled to room temperature, poured into water and extracted into EtOAc. The organic phase is washed with water (3×) and saturated NaCl (1×). The organic phase is dried over sodium sulfate and the solvent is removed under reduced pressure. The residual solid is dissolved in a minimum of DCM and filtered through a pad of silica gel using DCM to elute the product. The solvent is removed under reduced pressure to afford 3,7-bis-benzyloxynaphthalene-2-carboxylic acid benzyl ester as a tan solid: mp=99-102° C.

reactant | 3,7-dihydroxynaphthalene-2-carboxylic acid | 10 mmol, 2.04 g | OC=1C(=CC2=CC(=CC=C2C1)O)C(=O)O | C11H8O4
reactant | benzyl bromide | 35 mmol, 5.98 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 50 mmol, 6.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 3,7-bis-benzyloxynaphthalene-2-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)C1=CC2=CC(=CC=C2C=C1OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C32H26O4
